Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
azithromycin / Vicodin
 
Attending: ___
 
Chief Complaint:
word finding trouble, face droop
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is an ___ with history of hypothyroidism and PVCs without
known stroke risk factors who presents with word finding
difficulties and facial droop.

She was last seen well at 10:30am when she had a normal
conversation with her daughter. She noted slight word finding
difficulties at lunch time, which were not significantly notable
by others. She did not say the wrong words and did not have any
slurring and was able to carry on a conversation. She primarily
describes her speech as "slow." She went to a funeral today, and
then took a 2 hour nap. After the nap around 5pm, her daughter
noted a R facial droop. She still does not have any dysarthria,
though word finding concerns continue. Thus, she presented to 
the
BI ED.
  
 On neuro ROS, the pt endorses some neck pain since a fall with
head strike in ___. She had CT at the time that was normal,
and had concussive symptoms including lightheadedness which have
since improved. The patient denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
  
 On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
hypothyroidism
irregular heart rate - holter monitor found PVCs
  
 
Social History:
___
Family History:
 Family Hx: Sister with aneurysm diagnosed age ___. Mother with
stroke age ___.
 
Physical Exam:
Admission Exam:

 Physical Exam:
 Vitals: T: 98  P: 90 R: 16  BP: 182/96 SaO2: 95% RA
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM
 Neck: Supple. No nuchal rigidity
 Pulmonary: Normal work of breathing
 Cardiac: warm, well-perfused
 Abdomen: soft, non-distended
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.
  
 Neurologic:  
 -Mental Status: Alert, oriented, attentive. Language is fluent
 with intact repetition and comprehension. Normal prosody. There
 were no paraphasic errors. Pt. was able to name both high and
low
 frequency objects. Able to read without difficulty. Speech was
 not dysarthric. Able to follow both midline and appendicular
 commands. There was no evidence of apraxia or neglect. At times
the patient would say "there, it's still happening" referring to
word finding abnormality, though to examiner appears as normal
pauses in fluent speech.

CN  
 II,III: VFF to confrontation, pupils 4mm->2mm bilaterally, 
fundi
 normal  
 III,IV,VI: EOMI, no ptosis. Nystagmus on end gaze bilaterally,
extinguishes
 V: sensation intact V1-V3 to LT  
 VII: NLF are symmetric, however patient with decreased
activation of R face compared to L

VIII: hears finger rub bilaterally  
 IX,X: palate elevates symmetrically, uvula midline  
 XI: SCM/trapezeii ___ bilaterally  
 XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk and tone, no rigidity; no asterixis or
 myoclonus. No pronator drift.  
   Delt Bi Tri WE FE   
   C5   C6 C7  C6 C7 
 L 5    ___  5  
 R 5    ___  5 
  
   IP Quad Hamst DF PF  
   L2 L3   L4-S1 L4 S1/S2  
 L 5  5     5    5  5 
 R 5  5     5    5  5

Reflex: No clonus  
   Bi Pat An Plantar  
   C5 L4  S1 
 L ___  Flexor
 R ___  Flexor

-Sensory: No deficits to light touch or pinprick on face or
extremities. No extinction to DSS. 
  
-Coordination: No intention tremor, dysdiadochokinesia noted. No
 dysmetria on FNF or HKS bilaterally.  

-Gait: Narrow-based, normal stride and arm
 swing. Able to walk in tandem without difficulty. Romberg
absent.

====================
Discharge Exam:

  
EXAM
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
  
Neurologic:  

-Mental Status: Alert, oriented, attentive. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Speech was mildly dysarthric and
slowed. Able to follow both midline and appendicular commands.
There was no evidence of apraxia or neglect. 

-CN:  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally, fundi
normal  
III,IV,VI: EOMI, no ptosis.
V: sensation intact V1-V3 to LT  
VII: NLF are symmetric, however patient with decreased 
activation
of R face compared to L
VIII: hears finger rub bilaterally  
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

-Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift. Orbits around the right arm.
Strength otherwise full.

-Sensory: No deficits to light touch on face or extremities. No
extinction to DSS. 
  
-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally. RAM slower on the right. 

 
Pertinent Results:
___ 06:40AM BLOOD Glucose-126* UreaN-11 Creat-0.6 Na-141 
K-4.2 Cl-103 HCO3-25 AnGap-13
___ 06:20AM BLOOD ALT-12 AST-15 LD(LDH)-153 CK(CPK)-42 
AlkPhos-67 TotBili-0.5
___ 06:20AM BLOOD %HbA1c-5.6 eAG-114
___ 06:20AM BLOOD Triglyc-60 HDL-63 CHOL/HD-2.6 LDLcalc-89 
LDLmeas-111
___ 06:20AM BLOOD TSH-1.9
 
Brief Hospital Course:
___ is an ___ year old woman with past history of hypothyroidism
and PVCs who presented with word finding difficulties, right 
facial droop, right hand clumsiness. MRI revealed left caudate, 
left posterior limb of internal capsule and left putamen acute 
to subacute infarcts.

Exam notable only for right facial droop, orbiting around the
right, and otherwise preserved RUE strength. 

Etiology unclear but likely cardioembolic related to recently 
discovered fibroelastoma on aortic valve. Plan for TEE and 
possible Cardiothoracic evaluation for removal of lesion through 
her established outpatient Cardiologist office. 

Her antithrombotic treatment choice is challenging. A case for
anticoagulation could be made but not a well established 
measure. We opted to load her with clopidogrel with plan for 
empiric DAPT treatment with ASA/Clopidogrel.

Labs: A1c 5.6%, LDL 111

TRANSITIONAL ISSUES:
- Neurosurgical follow up for incidental right ICA
aneurysm. 
- Cardiology follow up for TEE and CT surgery eval for possible 
removal of fibroelastoma on aortic valve
- Continue dual antiplatelet therapy with aspirin and Plavix
- continue atorvastatin for hyperlipidemia 
- Ziopatch placed at discharge
- Will need outpatient OT/SLP; scripts given at discharge

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 111 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 

 
Medications on Admission:
Levothyroxine Sodium 88 mcg PO QAM  

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth qPM Disp #*30 Tablet 
Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  Levothyroxine Sodium 88 mcg PO QAM  
5.Outpatient Speech/Swallowing Therapy
6.Outpatient Occupational Therapy

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

 You were hospitalized due to symptoms of slowed speech and 
right facial droop resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. 
 
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 - High cholesterol 
 - Fibroelastoma on the aortic valve
 
 Aspirin and Plavix are new medications. Please take these 
everyday to help decrease the risk of stroke. 
 Atorvastatin in a new medicine to help decrease your 
cholesterol. 
 Please continue taking your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___